* source AC ANALYSIS
R_R1         N00129 N00136  200 TC=0,0 
R_R2         0 N00136  400 TC=0,0 
C_C1         0 N00136  10u  TC=0,0 
V_V1         N00129 0  AC 100V 
