* source ACTIVE
.EXTERNAL OUTPUT VCC
.EXTERNAL OUTPUT VEE
X_U1         N00230 N00208 VCC VEE N00219 uA741
R_R3         N00212 N00208  1k TC=0,0 
R_R2         N00230 0  1k TC=0,0 
R_R1         N00219 0  1k TC=0,0 
V_V1         N00212 0   
V_V2         VCC 0 DC 10V  
V_V3         VEE 0 DC -10V  
