* source ACTIVE
.EXTERNAL OUTPUT VCE
.EXTERNAL OUTPUT IIN
Q_Q1         VCE IIN 0 Q2N2222
I_I1         0 IIN DC 200uAdc  
V_V1         VCE 0 DC 5V  
