* source ACTIVE
.EXTERNAL INPUT IIN
.EXTERNAL OUTPUT VCC
V_V1         VCC 0 DC -5V  
I_I1         0 IIN DC -200uAdc  
Q_Q1         VCC IIN 0 Q2N2907A
