* source ACTIVE
.EXTERNAL OUTPUT VDD
.EXTERNAL OUTPUT VG
V_V2         VG 0 DC -5V  
V_V1         VDD 0 DC -10V  
M_M1         VDD VG 0 0 IRF9140
