* source ACTIVE
X_X1         N00128 N00124 N00144 2N5444
R_R1         0 N00124  1k TC=0,0 
R_R2         N00128 N00136  1k TC=0,0 
V_V1         N00136 N00144 DC 250V  
