* source ACTIVE
.EXTERNAL OUTPUT VCC
.EXTERNAL OUTPUT -VEE
X_U1         N00208 N00226 VCC -VEE N00219 uA741
R_R1         N00219 N00226  1k TC=0,0 
R_R2         N00226 0  1k TC=0,0 
R_R3         N00212 N00208  1k TC=0,0 
V_V1         N00212 0  
+SIN 0V 20V 60Hz 0 0 0
V_V2         VCC 0 DC 10V  
V_V3         -VEE 0 DC -10V  
