* source ADDER
.EXTERNAL OUTPUT S
.EXTERNAL OUTPUT C
X_U1A         N00194 N00198 S $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         N00194 N00198 C $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_A         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00194 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.2us 0  
+ 0.4us 1  
+ 0.6us 1 
+ 0.8us 0  
U_B         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00198 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.2us 1  
+ 0.4us 0  
+ 0.6us 1 
+ 0.8us 0  
