* source ADDER
.EXTERNAL OUTPUT C
.EXTERNAL OUTPUT S
X_U1A         N00330 N00334 N00393 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         N00393 N00410 S $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         N00330 N00334 N00389 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         N00393 N00410 N00427 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         N00389 N00427 C $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_A         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00330 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.2us 1  
+ 0.4us 0  
+ 0.6us 1 
+ 0.8us 0  
+ 1.0us 1  
+ 1.2us 0  
+ 1.4us 1  
U_B         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00334 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.4us 1  
+ 0.8us 0  
+ 1.2us 1 
U_Cin         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00410 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.8us 1  
