* source ADDER
.EXTERNAL OUTPUT S0
.EXTERNAL OUTPUT C
.EXTERNAL OUTPUT S1
X_U1A         N00482 N00486 N00550 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         N00550 N00601 S1 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1C         N00474 N00478 S0 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         N00482 N00486 N00546 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         N00550 N00601 N00554 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2C         N00474 N00478 N00601 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         N00546 N00554 C $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_A0         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00474 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.1us 1  
+ 0.2us 0  
+ 0.3us 1 
+ 0.4us 0  
+ 0.5us 1  
+ 0.6us 0  
+ 0.7us 1  
+ 0.8us 0  
+ 0.9us 1  
+ 1.0us 0  
+ 1.1us 1 
+ 1.2us 0 
+ 1.3us 1 
+ 1.4us 0 
+ 1.5us 1
U_B0         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00478 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.2us 1  
+ 0.4us 0  
+ 0.6us 1 
+ 0.8us 0  
+ 1.0us 1  
+ 1.2us 0  
+ 1.4us 1  
U_A1         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00482 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.4us 1  
+ 0.8us 0  
+ 1.2us 1 
U_B1         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00486 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.8us 1  
