* source ALGEBRA
.EXTERNAL OUTPUT X
X_U1A         N00190 N00194 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_A         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00190 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.2us 1  
+ 0.4us 0  
+ 0.6us 1 
+ 0.8us 0  
X_U1B         N00194 X $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
