* source ASYNCHRONOUS COUNTERS
.EXTERNAL OUTPUT A
.EXTERNAL OUTPUT B
.EXTERNAL OUTPUT C
.EXTERNAL OUTPUT D
X_U1A         N00555 $D_HI N00939 $D_HI $D_HI A M_UN0001 $G_DPWR $G_DGND 7476
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         A $D_HI N00939 $D_HI $D_HI B M_UN0002 $G_DPWR $G_DGND 7476
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         B $D_HI N00939 $D_HI $D_HI C M_UN0003 $G_DPWR $G_DGND 7476
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         C $D_HI N00939 $D_HI $D_HI D M_UN0004 $G_DPWR $G_DGND 7476
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         B D N02705 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4A         N02705 N01121 N00939 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_CP         STIM(1,1) $G_DPWR $G_DGND N00555 IO_STM IO_LEVEL=0 
+ 0 1
+ +0 0
+REPEAT FOREVER
+ +0.1us 1
+  +0.1us 0
+ ENDREPEAT
U_CLR         STIM(1,1)
+ $G_DPWR $G_DGND
+ N01121 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.1us 1  
