* source CL RESONANCE
C_C1         N00162 VOUT  0.01uF  TC=0,0 
L_L1         0 VOUT  {lval}  
V_V1         N00162 0  
+PULSE 0 10 0.5m 0.1n 0.1n 1ms 2ms
.PARAM  lval=1mh
