* source COMBINATIONAL LOGIC CIRCUIT
.EXTERNAL OUTPUT OUT
U_A1         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00492 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.2us 1  
+ 0.4us 0  
+ 0.6us 1 
+ 0.8us 0  
X_U1A         $D_HI N00367 OUT $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         $D_HI N00386 N00367 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1C         $D_HI N00408 N00386 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1D         $D_HI N00433 N00408 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         $D_HI N00461 N00433 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         $D_HI N00492 N00461 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
