* source COMBINATIONAL LOGIC CIRCUIT
.EXTERNAL OUTPUT OUT
X_U1A         N01806 N01810 N01715 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         N01806 N01715 N01739 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1C         N01715 N01810 N01752 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1D         N01739 N01752 OUT $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_A         STIM(1,1)
+ $G_DPWR $G_DGND
+ N01806 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.2us 1  
+ 0.4us 0  
+ 0.6us 1 
+ 0.8us 0  
U_B         STIM(1,1)
+ $G_DPWR $G_DGND
+ N01810 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.4us 1  
+ 0.8us 0  
