* source COMBINATIONAL LOGIC CIRCUIT
.EXTERNAL OUTPUT OUT
X_U1A         N03298 N03302 N03314 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         N03306 N03310 N03326 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1C         N03314 N03326 OUT $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_A         STIM(1,1)
+ $G_DPWR $G_DGND
+ N03298 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.1us 1  
+ 0.2us 0  
+ 0.3us 1 
+ 0.4us 0  
+ 0.5us 1  
+ 0.6us 0  
+ 0.7us 1  
+ 0.8us 0  
+ 0.9us 1  
+ 1.0us 0  
+ 1.1us 1 
+ 1.2us 0 
+ 1.3us 1 
+ 1.4us 0 
+ 1.5us 1
U_B         STIM(1,1)
+ $G_DPWR $G_DGND
+ N03302 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.2us 1  
+ 0.4us 0  
+ 0.6us 1 
+ 0.8us 0  
+ 1.0us 1  
+ 1.2us 0  
+ 1.4us 1  
U_C         STIM(1,1)
+ $G_DPWR $G_DGND
+ N03306 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.4us 1  
+ 0.8us 0  
+ 1.2us 1 
U_D         STIM(1,1)
+ $G_DPWR $G_DGND
+ N03310 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.8us 1  
