* source COMBINATIONAL LOGIC CIRCUIT
.EXTERNAL OUTPUT D
.EXTERNAL OUTPUT B
X_U1A         N03871 N03675 D $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         N03667 N03671 N03871 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_C         STIM(1,1)
+ $G_DPWR $G_DGND
+ N03667 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.1us 1  
+ 0.2us 0  
+ 0.3us 1 
+ 0.4us 0  
+ 0.5us 1  
+ 0.6us 0  
+ 0.7us 1  
+ 0.8us 0  
U_B         STIM(1,1)
+ $G_DPWR $G_DGND
+ N03671 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.2us 1  
+ 0.4us 0  
+ 0.6us 1 
+ 0.8us 0  
U_A         STIM(1,1)
+ $G_DPWR $G_DGND
+ N03675 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.4us 1  
X_U2A         N03675 N03883 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         N03871 N03883 N03940 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3B         N03667 N03671 N03952 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3C         N03940 N03952 B $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
