* source COMBINATIONAL LOGIC CIRCUIT
.EXTERNAL OUTPUT OUT
U_A         STIM(1,1)
+ $G_DPWR $G_DGND
+ N04553 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.1us 1  
+ 0.2us 0  
+ 0.3us 1 
+ 0.4us 0  
+ 0.5us 1  
+ 0.6us 0  
+ 0.7us 1  
+ 0.8us 0  
+ 0.9us 1  
U_C         STIM(1,1)
+ $G_DPWR $G_DGND
+ N04613 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.4us 1  
+ 0.8us 0  
U_B         STIM(1,1)
+ $G_DPWR $G_DGND
+ N04557 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.2us 1  
+ 0.4us 0  
+ 0.6us 1 
+ 0.8us 0  
X_U1A         N04553 N04557 N04629 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         N04625 N04613 N04633 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         N04557 N04553 N04625 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         N04629 N04633 OUT $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
