* source COMBINATIONAL LOGIC CIRCUIT
.EXTERNAL OUTPUT GA
.EXTERNAL OUTPUT EQ
.EXTERNAL OUTPUT GB
X_U1A         N05245 N05275 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         N05241 N05309 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1C         N05305 EQ $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         N05241 N05245 N05305 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         N05275 N05241 GA $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3B         N05245 N05309 GB $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_A         STIM(1,1)
+ $G_DPWR $G_DGND
+ N05241 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.2us 1  
+ 0.4us 0  
+ 0.6us 1 
+ 0.8us 0  
U_B         STIM(1,1)
+ $G_DPWR $G_DGND
+ N05245 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.4us 1  
+ 0.8us 0  
