* source CONSTANT CURRENT SOURCE
.EXTERNAL OUTPUT VCC
Q_Q2         N00207 N00203 N00749 Q2N2222
Q_Q1         N00203 N00203 0 Q2N2222
R_Rref         N00203 VCC  10k TC=0,0 
R_RLOAD         N00207 VCC  {RLOAD} TC=0,0 
V_V1         VCC 0 DC 5V  
R_RE         0 N00749  1k TC=0,0 
.PARAM  rload=5k
