* source CONSTANT CURRENT SOURCE
.EXTERNAL OUTPUT VCC
Q_Q3         N00916 N01247 N00920 Q2N2222
R_Rref         N01247 VCC  10k TC=0,0 
R_RLOAD         N00916 VCC  {RLOAD} TC=0,0 
Q_Q2         N00920 N00223 0 Q2N2222
V_V1         VCC 0 DC 5V  
Q_Q1         N00223 N00223 0 Q2N2222
Q_Q4         N01247 N01247 N00223 Q2N2222
.PARAM  rload=10k
