* source CONSTANT CURRENT SOURCE
.EXTERNAL OUTPUT VCC
R_RLOAD         N00916 VCC  {RLOAD} TC=0,0 
V_V1         VCC 0 DC 5V  
R_Rref         N01247 VCC  10k TC=0,0 
Q_Q2         N00916 N01247 N01709 Q2N2222
Q_Q1         N01247 N01247 N01695 Q2N2222
R_RE1         0 N01695  1k TC=0,0 
R_RE2         0 N01709  2k TC=0,0 
.PARAM  rload=10k
