* source CONTROL SYSTEM VERIFICATION USING ABM
E_SUM2         N00168 0 VALUE {V(N00164)+V(N00160)}
E_LAPLACE1         N00160 0 LAPLACE {V(N00156)} {({K})/(0.1 * S + 1)}
E_LAPLACE2         OUT 0 LAPLACE {V(N00168)} {(324)/(S * S + 20 * S + 324)}
V_V1         IN 0  
+PWL 0s 0V 5s 0V 5.001s 0V 10s 0V 
R_R1         OUT 0  1k TC=0,0 
V_V2         N00164 0  
+PWL 0s 0V 5s 0V 5.001s 1V 10s 1V 
E_DIFF1         N00156 0 VALUE {V(IN,OUT)}
.PARAM  k=1
