* source CONVERTER
.EXTERNAL OUTPUT Vin
R_R1         0 N00507  4k TC=0,0 
D_D1         VIN N00507 D1N916 
C_C1         0 N00507  0.01u  TC=0,0 
V_V1         VIN 0  
+SIN 0V 5V 2kHz 0 0 0
