* source CONVERTER
R_R1         N01384 N01391  1k TC=0,0 
D_D1         N01308 N01384 D1N4148 
D_D2         N01308 N01391 D1N4148 
D_D3         N01308 N01406 D1N4148 
D_D4         N01308 N01425 D1N4148 
D_D5         N01308 N01440 D1N4148 
D_D6         N01308 N01457 D1N4148 
R_R2         N01391 N01406  1k TC=0,0 
R_R3         N01406 N01421  1k TC=0,0 
R_R4         N01421 N01425  1k TC=0,0 
R_R5         N01425 N01440  1k TC=0,0 
R_R6         N01440 N01457  1k TC=0,0 
R_R7         N01384 N01486  1k TC=0,0 
R_R8         N01457 N01494  1k TC=0,0 
V_V1         N01486 0 DC 1V  
V_V2         N01494 0 DC 1V  
V_V3         N01308 0 DC 1V  
