* source CONVERTER
R_R1         N02341 N02320  200 TC=0,0 
R_R2         N02320 0  5k TC=0,0 
V_V1         0 N02306 2.5V
V_V2         N02310 0 2.5V
D_D1         N02306 N02320 D1N914A 
D_D2         N02320 N02310 D1N914A 
V_V3         N02341 0  
+SIN 0V 10V 1kHz 0 0 0
