* source CONVERTER
.EXTERNAL OUTPUT VCC
.EXTERNAL OUTPUT VI
Q_Q1         N01575 N01555 N01593 Q2N2222
R_R1         VCC N01559  4k TC=0,0 
R_R2         VCC N01575  1.4k TC=0,0 
R_R3         VCC N01589  4k TC=0,0 
R_R4         N01593 0  1k TC=0,0 
Q_Q2         N01555 N01559 VI Q2N2222
Q_Q3         N01589 N01593 0 Q2N2222
V_V1         VI 0 DC 0V  
V_V2         VCC 0 DC 5V  
