* source CONVERTER
.EXTERNAL OUTPUT OUTPUT
.EXTERNAL OUTPUT VEE
.EXTERNAL OUTPUT VCC
X_U1A         N00340 N00222 VCC VEE OUTPUT LM324
V_V1         N00333 0  
+SIN 0V 1V 100Hz 0 0 0
R_R1         N00333 N00222  12.5k TC=0,0 
R_R2         N00340 0  12k TC=0,0 
R_R3         N00222 OUTPUT  55k TC=0,0 
R_R4         OUTPUT 0  1k TC=0,0 
C_C1         N00222 OUTPUT  0.01u  TC=0,0 
V_V2         VCC 0 DC 15V  
V_V3         VEE 0 DC -15V  
