* source CONVERTER
.EXTERNAL OUTPUT OUTPUT
.EXTERNAL OUTPUT VCC
.EXTERNAL OUTPUT VEE
V_V2         VCC 0 DC 15V  
R_R1         N00333 N00222  6k TC=0,0 
R_R3         N00222 OUTPUT  24.8k TC=0,0 
X_U1A         N00222 N00342 VCC VEE OUTPUT LM324
V_V3         VEE 0 DC -15V  
V_V1         N00333 0  
+SIN 0V 10V 50Hz 0 0 0
R_R2         N00342 0  1.2k TC=0,0 
