* source CONVERTER
.EXTERNAL OUTPUT VCC
.EXTERNAL OUTPUT VEE
R_R2         N00342 0  7.8k TC=0,0 
V_V3         VEE 0 DC -15V  
R_R3         N00222 N00259  7k TC=0,0 
X_U1A         N00342 N00222 VCC VEE N00259 LM324
V_V1         N00333 0  
+SIN 0V 1V 1kHz 0 0 0
R_R1         N00333 N00222  1k TC=0,0 
V_V2         VCC 0 DC 15V  
D_D1         N01669 N00222 D1N750 
D_D2         N01669 N00259 D1N750 
