* source DC SENSITIVITY
R_R1         N00143 N00150  1k TC=0,0 
R_R2         0 N00150  500 TC=0,0 
C_C1         0 N00150  1n  TC=0,0 
V_V1         N00143 0 DC 5V  
