* source DC SWEEP
R_R1         N00120 N00127  1k TC=0,0 
R_R2         0 N00127  1k TC=0,0 
C_C1         0 N00127  1n  TC=0,0 
V_V1         N00120 0 DC 10V  
