* source DE MORGAN
.EXTERNAL OUTPUT X
U_B         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00298 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.2us 0  
+ 0.4us 1  
+ 0.6us 1 
+ 0.8us 0  
U_C         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00302 
+ IO_STM
+ IO_LEVEL=0
+  0us 1  
+ 0.2us 0  
+ 0.4us 1  
+ 0.6us 0 
+ 0.8us 1  
U_D         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00306 
+ IO_STM
+ IO_LEVEL=0
+  0us 1  
+ 0.2us 1  
+ 0.4us 0  
+ 0.6us 0 
+ 0.8us 1  
U_A         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00294 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.2us 0  
+ 0.4us 0  
+ 0.6us 1 
+ 0.8us 1  
X_U1A         N00334 X $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         N00294 N00298 N00310 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         N00302 N00306 N00322 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2C         N00310 N00322 N00334 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
