* source DECODER & ENCODER
.EXTERNAL OUTPUT X1
.EXTERNAL OUTPUT X2
.EXTERNAL OUTPUT X3
.EXTERNAL OUTPUT X4
X_U1A         N00356 N00364 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         N00372 N00368 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         N00364 N00372 X2 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         N00368 N00356 X3 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2C         N00372 N00356 X4 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2D         N00364 N00368 X1 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_A         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00356 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.4us 1  
+ 0.8us 0  
U_B         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00372 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.2us 1  
+ 0.4us 0  
+ 0.6us 1 
+ 0.8us 0  
